US09334271B2
b) 8-[4-(1H-Imidazol-2-yl)-phenyl]-2,6-bis-((R)-3-methyl-morpholin-4-yl)-9H-purine
8-Bromo-2,6-bis-((R)-3-methyl-morpholin-4-yl)-9H-purine (99 mg, 250 μmol) was dissolved in 2 mL of acetonitrile and 0.2 mL of water under argon. 4-(1H-imidazol-2-yl)phenyl boronic acid (58.7 mg, 313 μmol), CsF (57 mg, 375 μmol), and Pd(PPh3)4 (28.9 mg, 25 μmol) were added. The suspension was stirred at 50° C. for 10 minutes in a closed microwave vial. Then it was irradiated for 40 minutes in a microwave apparatus at 150° C. The vial was cooled and uncapped, and the reaction mixture was diluted with 50 mL of CH2Cl2 and 10 mL of isopropanol. The organic solvents were washed with brine and aqueous NaHCO3, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography (40 g SiO2, CH2Cl2/EtOH/aqueous NH3 in a gradient from 100/0/0.1 to 90/10/0.1) to give the product as a solid (58 mg, 48%).

reactant | 8-Bromo-2,6-bis-((R)-3-methyl-morpholin-4-yl)-9H-purine | 250 μmol, 99 mg | BrC=1NC2=NC(=NC(=C2N1)N1[C@@H](COCC1)C)N1[C@@H](COCC1)C | C15H21BrN6O2
reactant | water | 0.2 mL | O | H2O
reactant | 4-(1H-imidazol-2-yl)phenyl boronic acid | 313 μmol, 58.7 mg | N1C(=NC=C1)C1=CC=C(C=C1)B(O)O | C9H9BN2O2
reactant | CsF | 375 μmol, 57 mg | [F-].[Cs+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
catalyst | Pd(PPh3)4 | 25 μmol, 28.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-[4-(1H-Imidazol-2-yl)-phenyl]-2,6-bis-((R)-3-methyl-morpholin-4-yl)-9H-purine | 58 mg, 48% | N1C(=NC=C1)C1=CC=C(C=C1)C=1NC2=NC(=NC(=C2N1)N1[C@@H](COCC1)C)N1[C@@H](COCC1)C | C24H28N8O2
